Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
heroine overdose; apnea
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr. ___ is a ___ yo man with a PMH of hepatitis C and substance 
abuse who presents to ___ with a heroin overdose.

On the afternoon of ___, Mr. ___ was found dozing off in a 
coffee shop and was brought to the ED. He was arousable to voice 
and answered questions appropriately. He stated that he had used 
more heroin than usual today, although it is unclear what time 
the heroin use occurred. No evidence of SI/HI. He reports that 
he has struggled with addiction for years since being in the 
military. He denied other drug use other than dip use.   
 
-In the ED, initial vitals: 98.4 104 151/99 20 98% RA 
-Arousable to voice. Noted to have abdominal bruising that the 
patient reported is from "sleepwalking". FAST testing in the ED 
was negative for intraabdominal bleeding.
-Labs significant for H/H of ___, AST/ALT 48/46, and VBG 
with a pH of 7.37, pCO2 60, and pO2 64. He otherwise had normal 
electrolytes, normal lipase, normal lactate, and negative serum 
tox. Utox was not sent in the ED.  
-Imaging significant for: Normal CXR and CT, CT abdomen/pelvis 
showed likely chronic T7 fracture and evidence of prior trauma 
to the abdomen (stranding).
-He was given prn narcan boluses for apnea and was ultimately 
transitioned to narcan drip for persistent apnea. After 11 hours 
in the ED, he was still requiring a drip and so was admitted to 
the ICU for close monitoring.
-On transfer, vitals were: 73 104/56 12 98% Nasal Cannula 
  
On arrival to the MICU, Mr. ___ was extremely somnolent and 
responded to questions by mumbling. He recalled taking heroin 
"about 1pm" the day prior. He confirmed that his abdominal 
bruising is from running into a chair while sleepwalking. He 
could speak in short sentences when stimulated by voice/shaking 
but had limited attention span. He reported that he sees a 
physician at the ___ but could not give the name of ___ 
physician. He said that he obtains his medications at ___ in 
___. When asked if he had an HCP/emergency contact, he said 
that he did not and there was no one he wanted us to call. He 
said that he had no other medical history besides hepatitis C.

 
Past Medical History:
Hepatitis C
Substance abuse 
 

 
Social History:
___
Family History:
unable to obtain
 
Physical Exam:
ADMISSION:
Vitals: 73 104/56 12 98% Nasal Cannula  
GENERAL: Somnolent, unable to give clear history
HEENT: Sclera anicteric
NECK: supple, JVP not elevated
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  CV: Regular rate and rhythm, normal S1 S2, no murmurs, 
rubs, gallops  
ABD: Extensive bruising centrally spanning the entire abdomen in 
a band-line distribution. 
EXT: Warm, well perfused. Fresh track marks noted in the 
bilateral anticubital fossa with some induration but no 
erythema.  
SKIN: Track marks per above. 
NEURO: Very somnolent but arousable to voice/stimulation. Only 
able to speak in short sentences/few words

DISCHARGE: 
Vital Signs:  97.9, 55, 101/51, 18, 94%RA
General: Alert, oriented, no acute distress  
LUNGS: CTAB
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: Large bruise in linear distribution across abdomen, 
unchanged 
EXT: Warm, well perfused. Fresh track marks noted in the 
bilateral anticubital fossa and dorsum of forearms with some 
induration but no erythema. 
 
Pertinent Results:
ADMISSION/IMPORTANT LABS:
___ 02:52AM BLOOD WBC-9.2 RBC-3.59* Hgb-11.0* Hct-34.5* 
MCV-96 MCH-30.6 MCHC-31.9* RDW-13.6 RDWSD-47.4* Plt ___
___ 02:52AM BLOOD Neuts-72.8* Lymphs-17.1* Monos-6.9 
Eos-2.6 Baso-0.3 Im ___ AbsNeut-6.67* AbsLymp-1.57 
AbsMono-0.63 AbsEos-0.24 AbsBaso-0.03
___ 02:52AM BLOOD Glucose-150* UreaN-19 Creat-1.1 Na-139 
K-3.7 Cl-101 HCO3-30 AnGap-12
___ 02:52AM BLOOD ALT-48* AST-46* AlkPhos-56 TotBili-0.6
___ 03:21AM BLOOD ___ pO2-64* pCO2-60* pH-7.37 
calTCO2-36* Base XS-6 Intubat-NOT INTUBA
___ 03:21AM BLOOD Lactate-0.9
___ 02:52AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 10:07AM URINE bnzodzp-NEG barbitr-NEG opiates-POS 
cocaine-POS amphetm-NEG oxycodn-NEG mthdone-NEG

DISCHARGE LABS:
---------------
___ 07:25AM BLOOD WBC-5.0 RBC-3.63* Hgb-11.1* Hct-34.5* 
MCV-95 MCH-30.6 MCHC-32.2 RDW-13.4 RDWSD-46.4* Plt ___
___ 07:25AM BLOOD ___ PTT-26.6 ___
___ 07:25AM BLOOD Glucose-98 UreaN-14 Creat-0.9 Na-140 
K-3.5 Cl-102 HCO3-31 AnGap-11
___ 07:25AM BLOOD Calcium-8.8 Phos-2.2* Mg-1.9

MICRO:
------
___ MRSA screen - negative
___ Blood cultures - NGTD

IMAGING:
--------
CT head ___
Unremarkable unenhanced head CT.  No hemorrhage.

CT Abdomen ___
1. Linear opacities in the anterior abdominal wall subcutaneous 
fat with 
surrounding fat stranding likely reflects hematoma relating to 
recent trauma.  No flank hematoma. 
2. Anterior T7 vertebral body compression deformity with 50% 
loss of height is age-indeterminate in the absence of priors.  
Correlate with focal pain at this level for presence of an acute 
component. 
3. Mild to moderate cardiomegaly. 

 
Brief Hospital Course:
Mr. ___ is a ___ yo man with a PMH of hepatitis C and substance 
abuse who presents to ___ with a heroin overdose.

#Heroin overdose c/b apnea: 
Upon arrival in the MICU, patient was very somnolent and was 
unable to give a detailed history. He was continued narcan drip 
with monitoring of his respiratory rate. His narcan drip was 
ultimately stopped. Patient later placed on ___ scale, but 
did not require any methadone as was scoring <10. He was 
receiving Ativan 1mg Q4h prn anxiety, as well as other 
medications for withdrawal symptoms. Social work consult was 
ordered. The patient expressed his preference for an ___ 
rehab. Psychiatry was consulted to assist with treatment. 
However, on the morning of ___, patient eloped from hospital 
with two peripheral IVs in place. A followup call was placed to 
the ___, where he receives his care, but as he does not currently 
have a PCP ___.  Security was contacted to help localize Mr. 
___ but was unsuccessful in finding Ms. ___. 

#Hepatitis C: 
Reported history of hep C. Patient reports that he has not 
received treatment. Patient eloped prior to further discussion.

#Homelessness: 
Patient is reportedly homeless and does not stay in shelters. 
Social work consult as above, though patient eloped before 
placement could be determined.

TRANSITIONAL ISSUES
===========================
- The status of the patient's hepatitis C should be determined, 
and he may benefit from follow up with outpatient hepatology. 
- The patient has 2 PIVs placed during this hospitalization 
which were not removed as patient eloped. 
- Patient would benefit from further treatment of his heroin 
addiction, as well a prescription for narcan in case of overdose 
at home.
#Contact: Patient states he has no HCP or contact person
#Code: Full
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. ClonazePAM 1 mg PO QID 
2. Zolpidem Tartrate 10 mg PO QHS 
3. Gabapentin 800 mg PO TID 
4. BuPROPion (Sustained Release) 150 mg PO BID 

 
Discharge Medications:
(presumed same, patient eloped)
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
heroin addiction
 
Discharge Condition:
eloped
 
Discharge Instructions:
(none)
 
Followup Instructions:
___